US06294580B1
2(S)-(2-Benzoyl-cyclohex-1-enylamino)-3-(4-benzyloxy-phenyl)-propionic acid dicyclohexylamine salt
A stirred mixture of 1.35 g (5 mmol) o-benzyl-L-tyrosine, 1.0 mL (5 mmol) dicyclohexylamine and 1.01 g (5 mmol) 2-benzoylcyclohexanone (Denny, William A.; Cain, Bruce F.; J. Med. Chem. (1978), 21(5), 430-7.) in 25 mL MeOH was refluxed for 24 h. The solution was then cooled to 20° C., and the solvent was evaporated under reduced pressure. Purification of the residue by flash chromatography using Hexane/EtOAc (1:1) then EtOAc (neat), finally CHCl3/MeOH (10:1) as eluents resulted in 1.4 g of the of the title compound. 1H NMR (DMSO-d6, 400 MHz) δ 12.00 (d, 1H, J=8.4) 7.3 (m, 10H), 7.13 (d, 2H, J=8.5), 6.85 (d, 2H, J=8.5), 5.01 (s, 2H), 4.02 (m, 1H), 3.05 (m, 1H), 2.89 (m, 2H), 2.73 (dd, 1H, J=8.5, 13.7), 2.25 (m, 1H), 2.03 (m, 3H) 1.93 (m, 3H), 1.66 (m, 3H), 1.53 (d, 2H, J=12.3), 1.30 (m, 2H), 1.20 (m, 12H), 1.03 m (2H); low resolution MS (ESP+) m/e 456 (MH+).

reactant | o-benzyl-L-tyrosine | 5 mmol, 1.35 g | C(C1=CC=CC=C1)C1=C(C[C@H](N)C(=O)O)C=CC(=C1)O | C16H17NO3
reactant | dicyclohexylamine | 5 mmol, 1.0 mL | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | 2-benzoylcyclohexanone | 5 mmol, 1.01 g | C(C1=CC=CC=C1)(=O)C1C(CCCC1)=O | C13H14O2
reactant | MeOH | 25 mL | CO | CH4O
product | 2(S)-(2-Benzoyl-cyclohex-1-enylamino)-3-(4-benzyloxy-phenyl)-propionic acid dicyclohexylamine salt | C1(CCCCC1)NC1CCCCC1.C(C1=CC=CC=C1)(=O)C1=C(CCCC1)N[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | InChI=1S/C29H29NO4.C12H23N/c31-28(23-11-5-2-6-12-23)25-13-7-8-14-26(25)30-27(29(32)33)19-21-15-17-24(18-16-21)34-20-22-9-3-1-4-10-22;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h1-6,9-12,15-18,27,30H,7-8,13-14,19-20H2,(H,32,33);11-13H,1-10H2/t27-;/m0./s1
